US06187802B1
A solution of 1-(4-chlorophenyl)cyclobutanecarbonitrile (238 g) in ether (500 ml) was added at reflux temperature under nitrogen over 40 minutes to stirred ethereal methylmagnesium iodide solution (3M; 701 ml). After the addition was complete, the mixture was stirred at reflux temperature for 3 hours and at ambient temperature for 60 hours. The resulting solid was collected by filtration, washed well with ether, and added in portions to a stirred mixture of crushed ice (1 l) and concentrated hydrochloric acid (1 l). The resulting mixture was stirred at 95° C. for 1 hour then cooled to ambient temperature. The product was extracted into dichloromethane (3×250 ml), and the combined extracts were washed with water (3×200 ml), dried (MgSO4), and the solvent was removed in vacuo. The residue was distilled to give 1-[1-(4-chlorophenyl)cyclobutyl]ethanone as a brown oil (198.1 g), b.p. 95-100° C. at 0.3 mbar.

reactant | 1-(4-chlorophenyl)cyclobutanecarbonitrile | 238 g | ClC1=CC=C(C=C1)C1(CCC1)C#N | C11H10ClN
reactant | methylmagnesium iodide | 3M, 701 ml | C[Mg]I
reactant | ether | 500 ml | CCOCC | C4H10O
product | 1-[1-(4-chlorophenyl)cyclobutyl]ethanone | 198.1 g | ClC1=CC=C(C=C1)C1(CCC1)C(C)=O | C12H13ClO
